US03947434
A. Ethyl 9-Hydroxy-1H-imidazo[4,5-f]quinoline-9-carboxylate
An 82 g. portion (0.5 mole) of 5-nitrobenzimidazole in 1 l of ethanol was reduced over 5 g. of 5% palladium-charcoal catalyst containing 50% water. The reduction stopped after a pressure drop of 97 psig. (97%) in 75 min. The catalyst was filtered, 108 g. (0.5 mole) of diethoxymethylenemalonate was added to the filtrate and the solution was boiled in an open flask until about one-half of the solvent had boiled away (ca. 2 hr.). The product set to a solid cake upon cooling. Ethanol containing a little water was added to assist in breaking up the cake and the product was filtered, washed with cold ethanol-H2O (3:1) and air-dried; yield, 125 g. (83%). A 50 g. portion of this anil was added to 500 ml. of boiling Dowtherm over a 3-4 min. period and boiling was continued 4 min. longer. After cooling to room temperature the product was filtered, washed with Dowtherm, then benzene and air-dried; 44 g. of crude product was obtained. Extraction of this material with 500 ml. of boiling ethanol gave 22 g., m.p. 315°-316°C.

reactant | 5-nitrobenzimidazole | 0.5 mole | [N+](=O)([O-])C1=CC2=C(N=CN2)C=C1 | C7H5N3O2
reactant | water | O | H2O
reactant | diethoxymethylenemalonate | 0.5 mole | C(C)OC(OCC)=C(C(=O)[O-])C(=O)[O-]
reactant | Dowtherm | C1=CC=C(C=C1)C2=CC=CC=C2.C1=CC=C(C=C1)OC2=CC=CC=C2
solvent | ethanol | 1 l | C(C)O | C2H6O
catalyst | palladium-charcoal | [Pd] | Pd
product | Ethyl 9-Hydroxy-1H-imidazo[4,5-f]quinoline-9-carboxylate | OC1(C=CN=C2C=CC=3C(=C12)NCN3)C(=O)OCC | C13H13N3O3
